US04892951
A solution of 4-chloro-3-nitropyridine (1.1 g, 6.94 mmol) and 3-amino-1,2-propanediol (1.22 g, 13.4 mmol) in isopropanol (50 ml) was stirred at 20°-25° C. for 20 hours and then concentrated under reduced pressure. Flash chromatography of the residue over silica gel and elution with 10% MeOH-90% CHCl3 gave pure 4-(2,3-dihydroxy-1-propylamino)-3-nitropyridine (500 mg, 33.8%). An analytically pure sample, m.p. 131°-35° C., was obtained upon recrystallization from MeOH-EtOAc-hexane.

reactant | 4-chloro-3-nitropyridine | 6.94 mmol, 1.1 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-amino-1,2-propanediol | 13.4 mmol, 1.22 g | NCC(CO)O | C3H9NO2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-(2,3-dihydroxy-1-propylamino)-3-nitropyridine | 500 mg, 33.8% | OC(CNC1=C(C=NC=C1)[N+](=O)[O-])CO | C8H11N3O4
